US04755212
Preparation of 2-fluoro-6-methylaniline
A solution of 8.15 g (38.5 mmol) of N-t-butoxycarbonyl-2-fluoroaniline in 30 ml of dry THF was cooled to -70° C., and 46.3 ml (93 mmol) of 2.0M t-butyllithium in pentane was added dropwise at a rate sufficient to maintain the temperature below -65° C. When the addition was complete the reaction mixture was stirred at -70° C. for 15 minutes, warmed to -20° C. and stirred for 2.5 hours. A solution of 6.8 g (30 mmol) of methyl iodide in THF was added and the reaction was allowed to warm to room temperature. The reaction mixture was partitioned between ether and water, and the organic layer was washed with saturated aqueous NaCl and dried (MgSO4). Evaporation at reduced pressure gave a yellow solid which was added to 25 ml of 3N HCl and heated at reflux for 3 hours. After cooling to room the pH of the solution was adjusted to pH 7, and the solution was extracted twice with methylene chloride. The combined organic phases were washed with water and dried (MgSO4). Evaporation at reduced pressure gave a yellow oil which was Kugelrohr distilled to yield 3.8 g (80%) of the desired product as a liquid, bp 91°-93° C. (0.1 mm). IR and 1H NMR spectra were in agreement with the assigned structure.

reactant | N-t-butoxycarbonyl-2-fluoroaniline | 38.5 mmol, 8.15 g | C(C)(C)(C)OC(=O)NC1=C(C=CC=C1)F | C11H14FNO2
reactant | t-butyllithium | 93 mmol, 2.0M, 46.3 ml | C(C)(C)(C)[Li]
reactant | methyl iodide | 30 mmol, 6.8 g | CI | CH3I
reactant | HCl | 3N, 25 ml | Cl | ClH
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 2-fluoro-6-methylaniline | 3.8 g, 80% | FC1=C(N)C(=CC=C1)C | C7H8FN
